US07642264B2
2′-Chloro-6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-[2,4′]bipyridinyl
The title compound was prepared from trifluoro-methanesulfonic acid 6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester (example A.34) (2.7 g, 7.0 mmol), commercially available 2-chloro-4-iodo-pyridine [CAS No. 153034-86-7] (1.62 g, 6.8 mmol) and i-PrMgCl/ZnCl2 according to the general procedure IVc protocol a. Obtained as a white solid (0.75 g, 30%). MS (ISP) 375.2 [(M+H)+] and 377.1 [(M+2+H)+].

reactant | trifluoro-methanesulfonic acid 6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester | 7.0 mmol, 2.7 g | C1(CC1)C1=CC(=CC(=N1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C16H11F6NO3S
reactant | 2-chloro-4-iodo-pyridine | ClC1=NC=CC(=C1)I | C5H3ClIN
catalyst | i-PrMgCl ZnCl2 | C(C)(C)[Mg]Cl.[Cl-].[Cl-].[Zn+2]
product | 2′-Chloro-6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-[2,4′]bipyridinyl | ClC1=NC=CC(=C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C20H14ClF3N2
